US07678801B2
3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl)-4-methyl-N-(1-methylethyl)benzamide
The title compound was prepared from 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid by following the procedures in Example 19 using 2-propanamine for the amide formation and N,N-dimethyl-1,2-ethanediamine for the displacement reaction. LC-MS (ES) m/z 521 (M+H)+; 1H-NMR(MeOD) δ 1.26 (d, 6H), 2.12 (s, 6H), 2.30 (m, 2H), 2.36 (m, 5H), 3.27 (m, 2H), 4.23 (m, 1H), 6.38 (d, 1H), 7.25 (m, 2H), 7.44 (d, 1H), 7.49 (d, 1H), 7.59 (m, 1H), 7.79 (s, 1H), 7.93 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C22H15F2N3O3S
reactant | 2-propanamine | CC(C)N | C3H9N
reactant | N,N-dimethyl-1,2-ethanediamine | CN(CCN)C | C4H12N2
product | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl)-4-methyl-N-(1-methylethyl)benzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)NCCN(C)C)=O | C28H30F2N6O2
